US06008230
To a solution of 4-(tert-butyldiphenylsilyloxymethyl)-8-(2,6-dichlorobenzoylamino)-3-(N-methoxy-N-methylcarbamoyl)quinoline (1.03 g) in tetrahydrofuran (10 ml) was dropwise added 1M solution of diisobutylaluminum hydride in tetrahydrofuran (15 ml) at -55° C., and the mixture was stirred for 50 minutes at -60 to -45° C. The mixture was quenched by saturated ammonium chloride solution and 101, aqueous solution of potassium sodium tartrate. Diethyl ether (50 ml) was added to the mixture, and the mixture was stirred for 1.5 hours at ambient temperature. The separated aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate-n-hexane) to give 4-(tert-butyldiphenylsilyloxymethyl)-8-(2,6-dichlorobenzoylamino)-3-formylquinoline (809 mg).

reactant | 4-(tert-butyldiphenylsilyloxymethyl)-8-(2,6-dichlorobenzoylamino)-3-(N-methoxy-N-methylcarbamoyl)quinoline | 1.03 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C(N(C)OC)=O | C36H35Cl2N3O4Si
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-(tert-butyldiphenylsilyloxymethyl)-8-(2,6-dichlorobenzoylamino)-3-formylquinoline | 809 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C=O | C34H30Cl2N2O3Si
